** sch_path: /home/designer/shared/hm-openpdk-library/libs.tech/xschem/hm_io/hm_IOPadInOut30mA_OpenDrain_PUPD.sch
**.subckt hm_IOPadInOut30mA_OpenDrain_PUPD iovdd iovdd1 vdd pu c2p pad c2p_en pd otype p2c ! vss iovss
*.iopin iovdd1
*.iopin vss
*.iopin vdd
*.iopin !
*.iopin iovss
*.iopin iovdd
*.iopin pad
*.iopin c2p_en
*.iopin c2p
*.iopin p2c
*.iopin otype
*.iopin pu
*.iopin pd
XR2 vss ! ptap1 R=22.47 w=4.9e-6 l=4.9e-6
XR1 iovss ! ptap1 R=0.209 w=66.51e-6 l=66.51e-6
x2 iovdd ! pad pad ! sg13g2_DCPDiode_noptap
x1 pad iovss pad iovdd ! sg13g2_DCNDiode
x4 pad pad pad pad pad pad pad pad iovss ! ngate sg13g2_Clamp_N15N15D
x5 net1 iovdd iovss pad pad pad pad pad pad pad pad ! sg13g2_Clamp_P15N15D_noptap
x6 iovdd1 iovss pad p2c vdd vss ! sg13g2_LevelDown_noptap
x3 iovdd1 vss c2p_en net1 vdd ! ngate c2p otype hm_GateDecode_OpenDrain_noptap
x8 iovdd1 vdd pu pu_en vss ! pd_en pd hm_PUPD_decoder
x7 iovdd1 pu_en pad ! pd_en vss hm_PUPD_noptap
**.ends

* expanding   symbol:  hm_stdcells/sg13g2_DCPDiode_noptap.sym # of pins=5
** sym_path: /home/designer/shared/hm-openpdk-library/libs.tech/xschem/hm_stdcells/sg13g2_DCPDiode_noptap.sym
** sch_path: /home/designer/shared/hm-openpdk-library/libs.tech/xschem/hm_stdcells/sg13g2_DCPDiode_noptap.sch
.subckt sg13g2_DCPDiode_noptap cathode guard anode1 anode2 sub
*.iopin anode2
*.iopin cathode
*.iopin guard
*.iopin anode1
*.iopin sub
XD1 anode1 cathode dpantenna l=27.78u w=1.26u
XD2 anode2 cathode dpantenna l=27.78u w=1.26u
.ends


* expanding   symbol:  hm_stdcells/sg13g2_DCNDiode.sym # of pins=5
** sym_path: /home/designer/shared/hm-openpdk-library/libs.tech/xschem/hm_stdcells/sg13g2_DCNDiode.sym
** sch_path: /home/designer/shared/hm-openpdk-library/libs.tech/xschem/hm_stdcells/sg13g2_DCNDiode.sch
.subckt sg13g2_DCNDiode cathode1 anode cathode2 guard sub
*.iopin cathode2
*.iopin guard
*.iopin anode
*.iopin cathode1
*.iopin sub
XR1 anode sub ptap1 R=5.179 w=11.9e-6 l=11.9e-6
XD1 sub cathode1 dantenna l=27.78u w=1.26u
* noconn guard
XD2 sub cathode2 dantenna l=27.78u w=1.26u
.ends


* expanding   symbol:  hm_stdcells/sg13g2_Clamp_N15N15D.sym # of pins=4
** sym_path: /home/designer/shared/hm-openpdk-library/libs.tech/xschem/hm_stdcells/sg13g2_Clamp_N15N15D.sym
** sch_path: /home/designer/shared/hm-openpdk-library/libs.tech/xschem/hm_stdcells/sg13g2_Clamp_N15N15D.sch
.subckt sg13g2_Clamp_N15N15D pad[7] pad[6] pad[5] pad[4] pad[3] pad[2] pad[1] pad[0] iovss sub gate
*.iopin iovss
*.iopin gate
*.iopin pad[7],pad[6],pad[5],pad[4],pad[3],pad[2],pad[1],pad[0]
*.iopin sub
XR1 iovss sub ptap1 R=11.44 w=7.47e-6 l=7.47e-6
XD1 sub gate dantenna l=0.78u w=0.78u
XM1 pad[0] gate iovss sub sg13_hv_nmos w=8.8u l=0.6u ng=2 m=1
XM2 pad[1] gate iovss sub sg13_hv_nmos w=8.8u l=0.6u ng=2 m=1
XM3 pad[2] gate iovss sub sg13_hv_nmos w=8.8u l=0.6u ng=2 m=1
XM4 pad[3] gate iovss sub sg13_hv_nmos w=8.8u l=0.6u ng=2 m=1
XM5 pad[4] gate iovss sub sg13_hv_nmos w=8.8u l=0.6u ng=2 m=1
XM6 pad[5] gate iovss sub sg13_hv_nmos w=8.8u l=0.6u ng=2 m=1
XM7 pad[6] gate iovss sub sg13_hv_nmos w=8.8u l=0.6u ng=2 m=1
XM8 pad[7] gate iovss sub sg13_hv_nmos w=4.4u l=0.6u ng=1 m=1
.ends


* expanding   symbol:  hm_stdcells/sg13g2_Clamp_P15N15D_noptap.sym # of pins=5
** sym_path: /home/designer/shared/hm-openpdk-library/libs.tech/xschem/hm_stdcells/sg13g2_Clamp_P15N15D_noptap.sym
** sch_path: /home/designer/shared/hm-openpdk-library/libs.tech/xschem/hm_stdcells/sg13g2_Clamp_P15N15D_noptap.sch
.subckt sg13g2_Clamp_P15N15D_noptap gate iovdd iovss pad[7] pad[6] pad[5] pad[4] pad[3] pad[2] pad[1] pad[0] sub
*.iopin iovss
*.iopin gate
*.iopin iovdd
*.iopin pad[7],pad[6],pad[5],pad[4],pad[3],pad[2],pad[1],pad[0]
*.iopin sub
XM1 pad[0] gate iovdd iovdd sg13_hv_pmos w=26.64u l=0.6u ng=4 m=1
XD1 gate iovdd dpantenna l=0.78u w=0.78u
XM2 pad[1] gate iovdd iovdd sg13_hv_pmos w=26.64u l=0.6u ng=4 m=1
XM3 pad[2] gate iovdd iovdd sg13_hv_pmos w=26.64u l=0.6u ng=4 m=1
XM4 pad[3] gate iovdd iovdd sg13_hv_pmos w=26.64u l=0.6u ng=4 m=1
XM5 pad[4] gate iovdd iovdd sg13_hv_pmos w=26.64u l=0.6u ng=4 m=1
XM6 pad[5] gate iovdd iovdd sg13_hv_pmos w=26.64u l=0.6u ng=4 m=1
XM7 pad[6] gate iovdd iovdd sg13_hv_pmos w=26.64u l=0.6u ng=4 m=1
XM8 pad[7] gate iovdd iovdd sg13_hv_pmos w=13.32u l=0.6u ng=2 m=1
.ends


* expanding   symbol:  hm_stdcells/sg13g2_LevelDown_noptap.sym # of pins=7
** sym_path: /home/designer/shared/hm-openpdk-library/libs.tech/xschem/hm_stdcells/sg13g2_LevelDown_noptap.sym
** sch_path: /home/designer/shared/hm-openpdk-library/libs.tech/xschem/hm_stdcells/sg13g2_LevelDown_noptap.sch
.subckt sg13g2_LevelDown_noptap iovdd iovss pad core vdd vss !
*.iopin iovdd
*.iopin vss
*.iopin core
*.iopin pad
*.iopin vdd
*.iopin iovss
*.iopin !
XM5 net2 net1 vdd vdd sg13_hv_pmos w=4.65u l=0.45u ng=1 m=1
XM6 net2 net1 vss ! sg13_hv_nmos w=2.65u l=0.45u ng=1 m=1
XM7 core net2 vss ! sg13_lv_nmos w=2.75u l=0.13u ng=1 m=1
XM8 core net2 vdd vdd sg13_lv_pmos w=4.75u l=0.13u ng=1 m=1
x1 net1 iovdd iovss pad ! sg13g2_SecondaryProtection_noptap
.ends


* expanding   symbol:  /home/designer/shared/hm-openpdk-library/libs.tech/xschem/hm_stdcells/hm_GateDecode_OpenDrain_noptap.sym #
*+ of pins=9
** sym_path: /home/designer/shared/hm-openpdk-library/libs.tech/xschem/hm_stdcells/hm_GateDecode_OpenDrain_noptap.sym
** sch_path: /home/designer/shared/hm-openpdk-library/libs.tech/xschem/hm_stdcells/hm_GateDecode_OpenDrain_noptap.sch
.subckt hm_GateDecode_OpenDrain_noptap iovdd vss en pgate vdd sub ngate core otype
*.iopin pgate
*.iopin ngate
*.iopin iovdd
*.iopin vss
*.iopin en
*.iopin vdd
*.iopin sub
*.iopin core
*.iopin otype
x1 iovdd vss net2 pgate vdd sub sg13g2_LevelUp_noptap
x2 iovdd vss net1 ngate vdd sub sg13g2_LevelUp_noptap
x3 vss en en_neg vdd sub sg13g2_io_inv_x1_noptap
x4 vss core net2 vdd sub net3 sg13g2_io_nand2_x1_noptap
x5 vss core net1 vdd sub en_neg sg13g2_io_nor2_x1_noptap
x6 vss vdd sub sg13g2_io_tie_noptap
XR2 vss sub ptap1 R=114.9 w=1.54e-6 l=1.54e-6
x7 vss otype net3 vdd sub en_neg sg13g2_io_nor2_x1_noptap
.ends


* expanding   symbol:  /home/designer/shared/hm-openpdk-library/libs.tech/xschem/hm_stdcells/hm_PUPD_decoder.sym # of pins=8
** sym_path: /home/designer/shared/hm-openpdk-library/libs.tech/xschem/hm_stdcells/hm_PUPD_decoder.sym
** sch_path: /home/designer/shared/hm-openpdk-library/libs.tech/xschem/hm_stdcells/hm_PUPD_decoder.sch
.subckt hm_PUPD_decoder iovdd vdd pu pu_en vss sub pd_en pd
*.iopin pu
*.iopin pd
*.iopin iovdd
*.iopin vdd
*.iopin vss
*.iopin sub
*.iopin pu_en
*.iopin pd_en
x9 vss pu pu_neg vdd sub sg13g2_io_inv_x1_noptap
x10 vss pu net3 vdd sub xor_output sg13g2_io_nand2_x1_noptap
x11 vss pd net1 vdd sub xor_output sg13g2_io_nand2_x1_noptap
x12 vss pd pd_neg vdd sub sg13g2_io_inv_x1_noptap
x14 vss net1 net2 vdd sub sg13g2_io_inv_x1_noptap
x15 iovdd vss net3 pu_en vdd sub sg13g2_LevelUp_noptap
x16 iovdd vss net2 pd_en vdd sub sg13g2_LevelUp_noptap
x1 vss vdd sub sg13g2_io_tie_noptap
XR2 vss sub ptap1 R=114.9 w=1.54e-6 l=1.54e-6
x2 pd sub pu_neg xor_output vdd pd_neg vss hm_Tgate_noptap
x3 pd_neg sub pu xor_output vdd pd vss hm_Tgate_noptap
.ends


* expanding   symbol:  /home/designer/shared/hm-openpdk-library/libs.tech/xschem/hm_stdcells/hm_PUPD_noptap.sym # of pins=6
** sym_path: /home/designer/shared/hm-openpdk-library/libs.tech/xschem/hm_stdcells/hm_PUPD_noptap.sym
** sch_path: /home/designer/shared/hm-openpdk-library/libs.tech/xschem/hm_stdcells/hm_PUPD_noptap.sch
.subckt hm_PUPD_noptap iovdd pu_en pad ! pd_en vss
*.iopin pad
*.iopin pu_en
*.iopin pd_en
*.iopin iovdd
*.iopin !
*.iopin vss
XM1 pu_mid pu_en iovdd iovdd sg13_hv_pmos w=3.9u l=0.45u ng=1 m=1
XM2 pd_mid pd_en vss ! sg13_hv_nmos w=1.9u l=0.45u ng=1 m=1
XR1 pu_mid pad sub! rppd w=0.5e-6 l=4.135e-6 m=1 b=21
XR2 pad pd_mid sub! rppd w=0.5e-6 l=4.135e-6 m=1 b=21
XR3 vss ! ptap1 R=114.9 w=1.54e-6 l=1.54e-6
.ends


* expanding   symbol:  hm_stdcells/sg13g2_SecondaryProtection_noptap.sym # of pins=5
** sym_path: /home/designer/shared/hm-openpdk-library/libs.tech/xschem/hm_stdcells/sg13g2_SecondaryProtection_noptap.sym
** sch_path: /home/designer/shared/hm-openpdk-library/libs.tech/xschem/hm_stdcells/sg13g2_SecondaryProtection_noptap.sch
.subckt sg13g2_SecondaryProtection_noptap core iovdd iovss pad !
*.iopin iovss
*.iopin core
*.iopin pad
*.iopin iovdd
*.iopin !
XD1 core iovdd dpantenna l=4.98u w=0.64u
XD2 ! core dantenna l=3.1u w=0.64u
XR1 core pad sub! rppd w=1e-6 l=2e-6 m=1 b=0
.ends


* expanding   symbol:  hm_stdcells/sg13g2_LevelUp_noptap.sym # of pins=6
** sym_path: /home/designer/shared/hm-openpdk-library/libs.tech/xschem/hm_stdcells/sg13g2_LevelUp_noptap.sym
** sch_path: /home/designer/shared/hm-openpdk-library/libs.tech/xschem/hm_stdcells/sg13g2_LevelUp_noptap.sch
.subckt sg13g2_LevelUp_noptap iovdd vss in out vdd sub
*.iopin iovdd
*.iopin vss
*.iopin out
*.iopin in
*.iopin vdd
*.iopin sub
XM1 net1 net3 vss sub sg13_hv_nmos w=1.9u l=0.45u ng=1 m=1
XM3 net1 net2 iovdd iovdd sg13_hv_pmos w=0.3u l=0.45u ng=1 m=1
XM4 net2 net1 iovdd iovdd sg13_hv_pmos w=0.3u l=0.45u ng=1 m=1
XM5 out net2 iovdd iovdd sg13_hv_pmos w=3.9u l=0.45u ng=1 m=1
XM2 net2 in vss sub sg13_hv_nmos w=1.9u l=0.45u ng=1 m=1
XM6 out net2 vss sub sg13_hv_nmos w=1.9u l=0.45u ng=1 m=1
XM7 net3 in vss sub sg13_lv_nmos w=2.75u l=0.13u ng=1 m=1
XM8 net3 in vdd vdd sg13_lv_pmos w=4.75u l=0.13u ng=1 m=1
.ends


* expanding   symbol:  hm_stdcells/sg13g2_io_inv_x1_noptap.sym # of pins=5
** sym_path: /home/designer/shared/hm-openpdk-library/libs.tech/xschem/hm_stdcells/sg13g2_io_inv_x1_noptap.sym
** sch_path: /home/designer/shared/hm-openpdk-library/libs.tech/xschem/hm_stdcells/sg13g2_io_inv_x1_noptap.sch
.subckt sg13g2_io_inv_x1_noptap vss i nq vdd sub
*.iopin vss
*.iopin nq
*.iopin i
*.iopin vdd
*.iopin sub
XM7 nq i vss sub sg13_lv_nmos w=3.93u l=0.13u ng=1 m=1
XM8 nq i vdd vdd sg13_lv_pmos w=4.41u l=0.13u ng=1 m=1
.ends


* expanding   symbol:  hm_stdcells/sg13g2_io_nand2_x1_noptap.sym # of pins=6
** sym_path: /home/designer/shared/hm-openpdk-library/libs.tech/xschem/hm_stdcells/sg13g2_io_nand2_x1_noptap.sym
** sch_path: /home/designer/shared/hm-openpdk-library/libs.tech/xschem/hm_stdcells/sg13g2_io_nand2_x1_noptap.sch
.subckt sg13g2_io_nand2_x1_noptap vss i0 nq vdd sub i1
*.iopin vss
*.iopin nq
*.iopin i0
*.iopin vdd
*.iopin sub
*.iopin i1
XM7 net1 i0 vss sub sg13_lv_nmos w=3.93u l=0.13u ng=1 m=1
XM8 nq i0 vdd vdd sg13_lv_pmos w=4.41u l=0.13u ng=1 m=1
XM2 nq i1 vdd vdd sg13_lv_pmos w=4.41u l=0.13u ng=1 m=1
XM1 nq i1 net1 sub sg13_lv_nmos w=3.93u l=0.13u ng=1 m=1
.ends


* expanding   symbol:  hm_stdcells/sg13g2_io_nor2_x1_noptap.sym # of pins=6
** sym_path: /home/designer/shared/hm-openpdk-library/libs.tech/xschem/hm_stdcells/sg13g2_io_nor2_x1_noptap.sym
** sch_path: /home/designer/shared/hm-openpdk-library/libs.tech/xschem/hm_stdcells/sg13g2_io_nor2_x1_noptap.sch
.subckt sg13g2_io_nor2_x1_noptap vss i0 nq vdd sub i1
*.iopin vss
*.iopin nq
*.iopin i0
*.iopin vdd
*.iopin sub
*.iopin i1
XM7 nq i0 vss sub sg13_lv_nmos w=3.93u l=0.13u ng=1 m=1
XM8 net1 i0 vdd vdd sg13_lv_pmos w=4.41u l=0.13u ng=1 m=1
XM1 nq i1 vss sub sg13_lv_nmos w=3.93u l=0.13u ng=1 m=1
XM2 nq i1 net1 vdd sg13_lv_pmos w=4.41u l=0.13u ng=1 m=1
.ends


* expanding   symbol:  hm_stdcells/sg13g2_io_tie_noptap.sym # of pins=3
** sym_path: /home/designer/shared/hm-openpdk-library/libs.tech/xschem/hm_stdcells/sg13g2_io_tie_noptap.sym
** sch_path: /home/designer/shared/hm-openpdk-library/libs.tech/xschem/hm_stdcells/sg13g2_io_tie_noptap.sch
.subckt sg13g2_io_tie_noptap vss vdd sub
*.iopin vss
*.iopin vdd
*.iopin sub
* noconn vdd
* noconn vss
* noconn sub
.ends


* expanding   symbol:  /home/designer/shared/hm-openpdk-library/libs.tech/xschem/hm_stdcells/hm_Tgate_noptap.sym # of pins=7
** sym_path: /home/designer/shared/hm-openpdk-library/libs.tech/xschem/hm_stdcells/hm_Tgate_noptap.sym
** sch_path: /home/designer/shared/hm-openpdk-library/libs.tech/xschem/hm_stdcells/hm_Tgate_noptap.sch
.subckt hm_Tgate_noptap en sub in out vdd en_neg vss
*.iopin sub
*.iopin vdd
*.iopin en
*.iopin in
*.iopin out
*.iopin en_neg
*.iopin vss
XM7 out en in sub sg13_lv_nmos w=3.93u l=0.13u ng=1 m=1
XM8 out en_neg in vdd sg13_lv_pmos w=4.41u l=0.13u ng=1 m=1
XR2 vss sub ptap1 R=114.9 w=1.54e-6 l=1.54e-6
.ends

.end
